US07691842B2
Step 3: Preparation of 4H,10H-pyrazolo[5,1-c][1,4]benzoxazepine-2-carbaldehyde
The diol compound (3.83 g, 16.21 mmol) in HMPA (24 ml) was added to a suspension of NaH (60%, 1.34 g, 33.5 mmol) in toluene (330 ml) under N2. Rapidly heated to 95° C. for three hours and cooled to room temperature. Quenched with water and extracted with EtOAc. Washed organics with water and brine. Dried organics over sodium sulfate and filtered and concentrated. Purified with silica gel column and 2% MeOH in CH2Cl2. Obtained 4H,10H-pyrazolo[5,1-c][1,4]benzoxazepin-2-ylmethanol (white solid). Yield: 0.71 g 20%. 4H,10H-pyrazolo[5,1-c][1,4]benzoxazepin-2-ylmethanol (0.71 g, 3.28 mmol), 4-methylmorpholine N-oxide (1/198 g, 10.23 mmol), molecular sieves (powder, 4 angstroms) (3.32 g), and acetonitrile (0.07M) were placed together under N2. Tetrapropylammoniumperruthenate (0.113 g, 0.322 mmol) was added and after three hours the reaction solution was filtered through celite and concentrated. Purified with silica gel column and 1:1 EtOAc/Hexane. Obtained 4H,10H-pyrazolo[5,1-c][1,4]benzoxazepine-2-carbaldehyde (white solid). Yield: 0.31 g 44%.

reactant | NaH | 33.5 mmol, 1.34 g | [H-].[Na+]
reactant | 4H,10H-pyrazolo[5,1-c][1,4]benzoxazepin-2-ylmethanol | 3.28 mmol, 0.71 g | N1=C(C=C2COC3=C(CN21)C=CC=C3)CO | C12H12N2O2
reactant | 4-methylmorpholine N-oxide | 10.23 mmol, 198 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetonitrile | 0.07M | C(C)#N | C2H3N
solvent | HMPA | 24 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | toluene | 330 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrapropylammoniumperruthenate | 0.322 mmol, 0.113 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4H,10H-pyrazolo[5,1-c][1,4]benzoxazepine-2-carbaldehyde | N1=C(C=C2COC3=C(CN21)C=CC=C3)C=O | C12H10N2O2
